US07855233B2
A) Preparation of Rasagiline Base Oil
100.0 g of Rasagiline Tartrate was suspended in 458 ml deionized water, 229 ml Toluene was added and 46 ml of 25% NaOH solution was introduced at stirring. The mixture was heated to 45° C., stirred at 45 C for 15 minutes and settled at this temperature.

reactant | Rasagiline Tartrate | 100.0 g | C#CCN[C@@H]1CCC2=CC=CC=C12.C#CCN[C@@H]1CCC2=CC=CC=C12.[C@@H]([C@H](C(=O)O)O)(C(=O)O)O
reactant | water | O | H2O
reactant | NaOH | 46 ml | [OH-].[Na+]
solvent | Toluene | 229 ml | C1(=CC=CC=C1)C | C7H8
product | Rasagiline | C#CCN[C@@H]1CCC2=C1C=CC=C2 | C12H13N
